US08476267B2
tert-Butyl 3-[(5-cyanopyridin-2-yl)amino]piperidine-1-carboxylate
1.0 g (4.99 mmol) of tert-butyl 3-aminopiperidine-1-carboxylate and 1.383 g (9.99 mmol) of 6-chloropyridine-3-carbonitrile and 1.29 g (9.99 mmol) of diisopropylethylamine were suspended in 40 ml of DMSO and heated in a microwave at 140° C. for 45 min. Most of the DMSO was removed from the mixture by kugelrohr distillation, water was added and the resulting precipitate was filtered off. Drying under high vacuum gave 2.24 g (46% of theory) of the product.

reactant | tert-butyl 3-aminopiperidine-1-carboxylate | 4.99 mmol, 1.0 g | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 6-chloropyridine-3-carbonitrile | 9.99 mmol, 1.383 g | ClC1=CC=C(C=N1)C#N | C6H3ClN2
reactant | diisopropylethylamine | 9.99 mmol, 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | tert-Butyl 3-[(5-cyanopyridin-2-yl)amino]piperidine-1-carboxylate | C(#N)C=1C=CC(=NC1)NC1CN(CCC1)C(=O)OC(C)(C)C | C16H22N4O2
